US04221914
A solution of 10 mmole of [[(ethylsulfinyl)methyl]thio]ethane in 20 ml of dry tetrahydrofuran is heated at 0° C. with 10 mmole of lithium diisopropylamide, prepared from a solution of diisopropylamine M in tetrahydrofuran and butyllithium 2 M in hexane. After 30 minutes at 0° C. a solution of 12 mmole of 5-acetyloxymethyl-1-tosylimidazole in 10 ml of tetrahydrofuran is added. The reaction mixture is stirred at 25° C. overnight then is quenched with brine and extracted with ether. The organic phase is washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give [[(ethylsulfinyl)-1-tosylimidazol-5-ylmethyl]thio]ethane. To a solution of 20 mmole of [[(ethylsulfinyl)-1-tosylimidazol-5-ylmethyl]thio]ethane in 20 ml of dry tetrahydrofuran is added at 0° C. and under nitrogen a solution of 20 mmole of lithium diisopropylamide prepared from a solution of diisopropylamine M in tetrahydrofuran and butyl lithium 2 M in hexane. Stirring is continued for 30 minutes at 25° C. after which a stream of chlorodifluoromethane is bubbled into the reaction mixture for 1/2 hour. The reaction mixture is maintained at 40° C. for 3 hours then quenched with brine and extracted with ether. The organic phase is separated, washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to afford [[(ethylsulfinyl)((difluoromethyl)-1-tosylimidazol-5-ylmethyl)]thio]ethane. To a solution of 30 ml of [[(ethylsulfinyl)((difluoromethyl)-1-tosylimidazol-5-ylmethyl)]thio]ethane in 33 ml of acetonitrile is added at 0° C. a 70% aqueous solution of perchloric acid (1.1 ml). After stirring for 2 hours at 0° C. the reaction mixture is poured into 60 ml of water then extracted with difluoromethane. The organic phase is washed with sodium bicarbonate then water, dried over magnesium sulfate and concentrated under reduced pressure to afford difluoromethyl 5-imidazolylmethyl ketone.

reactant | [[(ethylsulfinyl)methyl]thio]ethane | 10 mmole | C(C)S(=O)CSCC | C5H12OS2
reactant | lithium diisopropylamide | 10 mmole | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 2 M | C(CCC)[Li]
reactant | 5-acetyloxymethyl-1-tosylimidazole | 12 mmole | C(C)(=O)OCC1=CN=CN1S(=O)(=O)C1=CC=C(C)C=C1 | C13H14N2O4S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [[(ethylsulfinyl)-1-tosylimidazol-5-ylmethyl]thio]ethane | C(C)S(=O)C(SCC)C1=CN=CN1S(=O)(=O)C1=CC=C(C)C=C1 | C15H20N2O3S3
